### PR TITLE
chore(RepresentationTheory/Rep/Res): remove a layer on `Rep.res`

### PR DESCRIPTION
**Pull request by JX-Mo**
Define directly `abbrev res (f : H →* G) (A : Rep k G) := of (A.ρ.comp f)` and golf.

### CODE REVIEW

**Comment by JX-Mo** [comment]
easy

File: Mathlib/RepresentationTheory/Rep/Res.lean
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Rep/Res.lean:52]: These names are not proper but I guess nobody will need them anymore from now on.

File: Mathlib/RepresentationTheory/Rep/Res.lean [hunk 1]
```diff
@@ -26,26 +26,26 @@ open CategoryTheory
...
 `G`-representations. -/
 @[expose, implicit_reducible]
 def resMap {X Y : Rep k G} (f : H →* G) (p : X ⟶ Y) :
-    of (X := X.V) (X.ρ.comp f) ⟶ of (X := Y.V) (Y.ρ.comp f) :=
-  ofHom ⟨p.hom, fun h ↦ by simpa using! p.hom.2 (f h)⟩
+    res f X ⟶ res f Y :=
+  ofHom ⟨p.hom, fun _ ↦ p.hom.2 _⟩
 
 /-- The restriction functor `Rep R G ⥤ Rep R H` for a subgroup `H` of `G`. -/
 abbrev resFunctor (f : H →* G) : Rep.{t} k G ⥤ Rep k H where
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Rep/Res.lean]: It seems to me that `resMap` should be an `abbrev` and `resFunctor` should be a `def`

**Comment by JX-Mo** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/d1add113c6b08dadb51c0b60926b65b6e5b36d61?reference=f0ab343610f9131a303cb9f175406d4db2285fd8) for d1add113c6b08dadb51c0b60926b65b6e5b36d61 against f0ab343610f9131a303cb9f175406d4db2285fd8 are in. No significant results found. @JX-Mo

- ✅ `build//instructions`: **-2.2G** (**-0.00%**)

**Small changes (5✅, 1🟥)**

- ✅ `build/module/Mathlib.MeasureTheory.Measure.CharacteristicFunction//instructions`: **-87.3M** (**-1.87%**)
- 🟥 `build/module/Mathlib.Probability.Distributions.Gaussian.HasGaussianLaw.Def//instructions`: **+93.4M** (**+1.74%**)
- ✅ `build/module/Mathlib.RepresentationTheory.Homological.GroupCohomology.Functoriality//instructions`: **-1.6G** (**-2.36%**)
- ✅ `build/module/Mathlib.RepresentationTheory.Rep.Res//instructions`: **-481.1M** (**-3.97%**)
- ✅ `build/module/Mathlib.Tactic.Convert//instructions`: **-135.1M** (**-1.43%**)
- ✅ `build/module/Mathlib.Tactic.GRewrite//instructions`: **-24.4M** (**-1.23%**)

**Comment by Whysoserioushah** [comment]
This PR definitely takes more than 20s to review! Also I don't really see the improvements here

**Comment by JX-Mo** [comment]
There is definitely improvement and indeed hard to explain in 20 seconds. The main problem is with the current wrapper, simp will not see through res as `of ρ.comp φ`. I found this when adding simp lemmas for `indResHomEquiv_symm_apply_hom`. If the input is of this lemma is `(f : A ⟶ res φ B)`, it won't fire because your simp lemma "res_obj_ρ" will turn `res φ B` into  `B.ρ.comp φ` in the **implicit type argument** but "simp" can not see through the current `res` in that case

**Comment by JX-Mo** [comment]
Here is a MWE
```
/-
Copyright (c) 2026 Yunzhou Xie. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Edison Xie
-/
module

public import Mathlib.Algebra.Homology.ShortComplex.ShortExact
public import Mathlib.RepresentationTheory.Rep.Basic
/-!
# Restriction of representations

Given a group homomorphism `f : H →* G`, we have the restriction functor
`resFunctor f : Rep k G ⥤ Rep k H` which sends a `G`-representation `ρ` to the
`H`-representation `ρ.comp f`.

-/

public section

universe t w u v v1 v2

variable {k : Type u} [Semiring k] {G : Type v1} {H : Type v2} [Monoid G] [Monoid H]

open CategoryTheory

namespace Rep

/-- The map induced by a monoid homomorphism `f : H →* G` on morphisms between
`G`-representations. -/
@[expose, implicit_reducible]
def resMap {X Y : Rep k G} (f : H →* G) (p : X ⟶ Y) :
    of (X := X.V) (X.ρ.comp f) ⟶ of (X := Y.V) (Y.ρ.comp f) :=
  ofHom ⟨p.hom, fun h ↦ by simpa using! p.hom.2 (f h)⟩

/-- The restriction functor `Rep R G ⥤ Rep R H` for a subgroup `H` of `G`. -/
abbrev resFunctor (f : H →* G) : Rep.{t} k G ⥤ Rep k H where
  obj A := of (X := A.V) (A.ρ.comp f)
  map f' := resMap f f'

/-- The restriction of `X : Rep k G` associated to a monoid homomorphism `f : H →* G` -/
abbrev res (f : H →* G) (M : Rep k G) := (resFunctor f).obj M

variable (f : H →* G) (M : Rep k G)

lemma res_id : res (MonoidHom.id G) M = M := rfl

@[simp] lemma res_obj_ρ : (res f M).ρ = (M.ρ.comp f) := rfl

abbrev res' (f : H →* G) (A : Rep k G) := of (A.ρ.comp f)

variable {k : Type u} [CommRing k] (φ : H →* G) {A : Rep k H} {B : Rep k G}
  {M : Type*} [AddCommGroup M] [Module k M]

theorem equiv_res (e :  (A ⟶ res φ B) ≃ₗ[k] M) (g : A ⟶ res φ B) : e g = 0 := sorry

theorem equiv_res' (e : (A ⟶ res' φ B) ≃ₗ[k] M) (g : A ⟶ res' φ B) : e g = 0 := sorry

example (e : (A ⟶ of (B.ρ.comp φ)) ≃ₗ[k] M) (g : A ⟶ of (B.ρ.comp φ)) :
    e g = 0 := by
  simp [equiv_res]

example (e : (A ⟶ of (B.ρ.comp φ)) ≃ₗ[k] M) (g : A ⟶ of (B.ρ.comp φ)) :
    e g = 0 := by
  simp [equiv_res']
#exit
```

**Comment by JX-Mo** [comment]
If you want a concrete example in reality, here it is and you can find the relevant definitions in #41808
```
/-- The linear equivalence `(ind φ A ⟶ B) ≃ₗ[k] (A ⟶ res φ B)`,
obtained by bundling `Representation.indResHomEquiv`. -/
noncomputable def indResHomEquiv (A : Rep.{max w v' u} k G) (B : Rep.{max w v' u} k H) :
    (ind φ A ⟶ B) ≃ₗ[k] (A ⟶ res φ B) :=
  (homLinearEquiv _ B).trans <| (A.ρ.indResHomEquiv φ B.ρ).trans (homLinearEquiv A (res φ B)).symm

@[simp]
lemma indResHomEquiv_apply_hom (A : Rep.{max w v' u} k G) (B : Rep.{max w v' u} k H)
    (f : ind φ A ⟶ B) :
    (indResHomEquiv.{w} φ A B f).hom = Representation.ind.evalOne φ f.hom := rfl

@[simp]
lemma indResHomEquiv_symm_apply_hom (A : Rep.{max w v' u} k G) (B : Rep.{max w v' u} k H)
    (f : A ⟶ res φ B) :
    ((indResHomEquiv.{w} φ A B).symm f).hom = ind.lift φ f.hom := rfl

/-- Given a group homomorphism `φ : G →* H`, the induction functor `Rep k G ⥤ Rep k H` is left
adjoint to the restriction functor along `φ`. -/
noncomputable def indResAdjunction : indFunctor k φ ⊣ resFunctor.{max w v' u} φ :=
  Adjunction.mkOfHomEquiv
    { homEquiv A B := (indResHomEquiv.{w} φ A B).toEquiv
      homEquiv_naturality_left_symm _ _ := by simp only [indFunctor_obj]; ext; simp -- the new `res` works
      homEquiv_naturality_right _ _ := rfl }

@[implicit_reducible]
def resMap' {X Y : Rep k G} (f : H →* G) (p : X ⟶ Y) :
    res f X ⟶ res f Y := ofHom ⟨p.hom, fun _ ↦ p.hom.2 _⟩

/-- The restriction functor `Rep R G ⥤ Rep R H` for a subgroup `H` of `G`. -/
abbrev resFunctor' (f : H →* G) : Rep.{w} k G ⥤ Rep k H where
  obj A := of (A.ρ.comp f)
  map f' := resMap f f'

abbrev res' (f : H →* G) (A : Rep k G) := (resFunctor' f).obj A --- the old `res`

@[simp]
lemma res'_obj_rho (f : H →* G) (A : Rep k G) : (res' f A).ρ = A.ρ.comp f := by simp only

/-- The linear equivalence `(ind φ A ⟶ B) ≃ₗ[k] (A ⟶ res φ B)`,
obtained by bundling `Representation.indResHomEquiv`. -/
noncomputable def indResHomEquiv' (A : Rep.{max w v' u} k G) (B : Rep.{max w v' u} k H) :
    (ind φ A ⟶ B) ≃ₗ[k] (A ⟶ res' φ B) :=
  (homLinearEquiv _ B).trans <| (A.ρ.indResHomEquiv φ B.ρ).trans (homLinearEquiv A (res' φ B)).symm

@[simp]
lemma indResHomEquiv_symm_apply_hom' (A : Rep.{max w v' u} k G) (B : Rep.{max w v' u} k H)
    (f : A ⟶ res' φ B) :
    ((indResHomEquiv.{w} φ A B).symm f).hom = ind.lift φ f.hom := rfl

/-- Given a group homomorphism `φ : G →* H`, the induction functor `Rep k G ⥤ Rep k H` is left
adjoint to the restriction functor along `φ`. -/
noncomputable def indResAdjunction' : indFunctor k φ ⊣ resFunctor'.{max w v' u} φ :=
  Adjunction.mkOfHomEquiv
    { homEquiv A B := (indResHomEquiv'.{w} φ A B).toEquiv
      homEquiv_naturality_left_symm _ _ := by simp only [indFunctor_obj]; ext; simp -- the old `res` fail
      homEquiv_naturality_right _ _ := rfl }
```

This shape (e : (A ⟶ of (B.ρ.comp φ)) ≃ₗ[k] M) will occur in the proof of `indResAdjunction.homEquiv_naturality_left_symm` after `simp` because `res_obj_ρ` fires. you can see this when you put your cursor on `.symm` in the infoview

```
@LinearEquiv.symm k k (ind φ X'✝ ⟶ Y✝) (X'✝ ⟶ of (MonoidHom.comp Y✝.ρ φ)) CommRing.toCommSemiring.toSemiring
  CommRing.toCommSemiring.toSemiring instAddCommGroupHom.toAddCommMonoid instAddCommGroupHom.toAddCommMonoid
  instModuleHom instModuleHom (RingHom.id k) (RingHom.id k) ⋯ ⋯ (indResHomEquiv' φ X'✝ Y✝) : (X'✝ ⟶ of (MonoidHom.comp Y✝.ρ φ)) ≃ₗ[k] ind φ X'✝ ⟶ Y✝
```
